US07781428B2
To a solution of methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylate (190 mg, 0.44 mmol) in methanol (2 mL) and tetrahydrofuran (2 mL) was added 1M aqueous sodium hydroxide (2 mL). The solution was stirred for 20 hours at ambient temperature. The resulting slurry was concentrated to half volume and acidified to pH=2 with 1M hydrochloric acid. The resulting solid was collected by vacuum filtration. The solid was treated with hot N,N-dimethylformamide and methanol to provide 2-(3-chloro-4-cyanophenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid (yellow solid, 40 mg, 22% yield). The title compound was largely present as 3RS,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid. Reversed-phase HPLC on 4.6×50 mm C-18 column, tR=3.05 minutes (10 to 90% acetonitrile/water over 4 minutes at 4 mL/minute with detection 254 nm, at 20° C.); HRMS Calculated for C23H18ClN3O3: 420.1109 (M+H)+. Found: 420.1127; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.59-1.89 (m, 2H), 2.03-2.14 (m, 2H), 2.14-2.23 (m, 2H), 3.89 (dd, J=13.02, 10.34 Hz, 1H), 4.05 (ddd, J=12.89, 10.74, 5.91 Hz, 1H), 4.67 (dd, J=10.34, 5.77 Hz, 1H), 5.51 (d, J=11.01 Hz, 1H), 5.63 (br. s., 1H), 7.00 (br. s., 1H) 7.29 (br. s., 1H), 7.43 (d, J=1.61 Hz, 1H), 7.56 (dd, J=8.19, 1.48 Hz, 1H), 7.71 (d, J=8.59 Hz, 1H), 7.94 (d, J=8.06 Hz, 1H), 13.16 (br. s., 1H).

reactant | methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylate | 0.44 mmol, 190 mg | ClC=1C=C(C=CC1C#N)N1N=C2C(C1C1=CCCC1)COC=1C=C(C=CC12)C(=O)OC | C24H20ClN3O3
reactant | sodium hydroxide | 1M, 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-(3-chloro-4-cyanophenyl)-3-cyclopentenyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid | 40 mg, 22% yield | ClC=1C=C(C=CC1C#N)N1N=C2C(C1C1=CCCC1)COC=1C=C(C=CC12)C(=O)O | C23H18ClN3O3
